US06635640B2
4-(4-Methoxyphenyl)-5-(2-oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester
4-Pyridin-4-yl-1,3-dihydroindol-2-one was condensed with 5-formyl-4-(4-methoxyphenyl)-1H-pyrrole-3-carboxylic acid ethyl ester to give the title compound.

reactant | 4-Pyridin-4-yl-1,3-dihydroindol-2-one | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 5-formyl-4-(4-methoxyphenyl)-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC(=C1C1=CC=C(C=C1)OC)C=O | C15H15NO4
product | 4-(4-Methoxyphenyl)-5-(2-oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CNC(=C1C1=CC=C(C=C1)OC)C=C1C(NC2=CC=CC(=C12)C1=CC=NC=C1)=O | C28H23N3O4
